US07163947B2
A solution of N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)(3-methylbutyl)amine (1.24 g, 3.97 mmol) in 45 mL of CH2Cl2 was treated with MCPBA (1.87 g, 7.04 mmol, 77% max). After 1.5 h, the reaction mixture was treated with 15 mL of concentrated NH4OH solution and p-toluenesulfonyl chloride (0.795 g, 4.17 mmol). After 30 min, the reaction mixture was diluted with CHCl3 and water and the phases were separated. The organic portion was washed with 5% Na2CO3 solution, water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield a sticky orange foam. Chromatography (SiO2, 97:3 CHCl3:MeOH) gave an off white foam. The foam was triturated with diethyl ether and hexanes and filtered to give 2-ethoxymethyl-N1-(3-methylbutyl)-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.435 g) as a cream colored solid. mp 129–132° C.; 1H NMR (300 MHz, CDCl3) δ 8.48 (dd, J=8.1, 1.1 Hz, 1H), 7.78 (d, J=8.3 Hz, 1H), 7.56–7.50 (m, 1H), 7.36–7.30 (m, 1H), 5.59 (t, J=6.7 Hz, 1H), 5.42 (s, 2H), 4.87 (s, 2H), 3.64 (q, J=7.0 Hz, 2H), 3.29 (q, J=7.0 Hz, 2H), 1.76 (s, J=6.7 Hz, 1H), 1.60 (q, J=6.9 Hz, 2H), 1.27 (t, J=7.0 Hz, 3H), 0.97 (d, J=6.6 Hz, 6H); 13C NMR (75 MHz, CDCl3) δ 151.2, 147.8, 144.9, 133.1, 127.8, 126.6, 124.0, 122.3, 120.7, 115.2, 66.8, 65.3, 51.1, 36.7, 26.0, 22.6, 15.1; MS (APCI) m/z 328 (M+H)+; Anal. Calcd for C18H25N5O.0.06H2O: C, 65.81; H, 7.71; N, 21.32; Found: C, 65.42; H, 7.75; N, 21.11. Karl Fischer analysis 0.32% water.

reactant | N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)(3-methylbutyl)amine | 3.97 mmol, 1.24 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)NCCC(C)C | C18H24N4O
reactant | MCPBA | 7.04 mmol, 1.87 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NH4OH | 15 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 4.17 mmol, 0.795 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | MeOH | CO | CH4O
product | 2-ethoxymethyl-N1-(3-methylbutyl)-1H-imidazo[4,5-c]quinoline-1,4-diamine | 0.435 g | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)NCCC(C)C | C18H25N5O
